US09169254B2
Pd(OH)2—C (20.0 g) was added to a solution of 4-[(E)-2-(1,4-dioxa-8-aza-spiro[4.5]decane-8-sulfonyl)-vinyl]-3-methyl-benzoic acid (20.0 g, 54.43 mmol) in THF (600 ml)-methanol (200 ml), and the mixture was stirred at room temperature overnight in a hydrogen atmosphere. The reaction mixture was filtered through celite, and the filtrate was then concentrated under reduced pressure to give 4-[2-(1,4-dioxa-8-aza-spiro[4.5]decane-8-sulfonyl)-ethyl]-3-methyl-benzoic acid as a white solid (18.23 g, 90.7%).

reactant | 4-[(E)-2-(1,4-dioxa-8-aza-spiro[4.5]decane-8-sulfonyl)-vinyl]-3-methyl-benzoic acid | 54.43 mmol, 20.0 g | O1CCOC12CCN(CC2)S(=O)(=O)/C=C/C2=C(C=C(C(=O)O)C=C2)C | C17H21NO6S
reactant | methanol | 200 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
solvent | THF | 600 ml | C1CCOC1 | C4H8O
product | 4-[2-(1,4-dioxa-8-aza-spiro[4.5]decane-8-sulfonyl)-ethyl]-3-methyl-benzoic acid | 18.23 g, 90.7% | O1CCOC12CCN(CC2)S(=O)(=O)CCC2=C(C=C(C(=O)O)C=C2)C | C17H23NO6S
